US07718671B2
Alternatively thiocarbonyl di-imidazole (1.1 mmol, 196 mg) is added to a solution of 3-benzyloxyaniline (1 mmol, 199 mg) in dichloromethane (5 mL). The reaction is stirred at room temperature until the aniline is consumed, about 1 hour. A solution of methanolic ammonia (2 M, 2 mL) is added and the stirring continued for 2 hours. Solvent is evaporated and the residue purified by chromatography on silica gel to give 150 mg of (3-benzyloxyphenyl)thiourea.

reactant | thiocarbonyl di-imidazole | 1.1 mmol, 196 mg | C(=S)(C=1NC=CN1)C=1NC=CN1 | C7H6N4S
reactant | 3-benzyloxyaniline | 1 mmol, 199 mg | C(C1=CC=CC=C1)OC=1C=C(N)C=CC1 | C13H13NO
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (3-benzyloxyphenyl)thiourea | 150 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)NC(=S)N | C14H14N2OS
